Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CP, SOB
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Mr. ___ is a ___ avid ___, father of 1 who 
exercises 4x a week with past medical history of a provoked 
pulmonary embolism in ___ in the setting of a torn right ACL,  
with negative coagulopathy w/u who presents with 3 days of 
worsening pleuritic chest pain. Denies shortness of breath, 
fever, cough, chills. 
He had a low-grade cold for a week.  Prior to this he felt well. 
 His pain improves with Advil and worsened with breathing.  On 
the day of presentation his pain had progressed such that he 
could barely drive and his pain had worsened shooting up to his 
shoulder.  It was also difficult for him to talk.  His pain 
improved with standing.
The day before ___ he had a 4 Hour Car Dr. ___ his 
parents home in ___.  Last ___ he drove for ___ 
hours to return home to ___.  He has not had any long train 
rides or plane rides.  The day before his symptoms started he 
worked out at the gym for 40 minutes without symptoms.
.
His PCP ordered an EKG and chest x-ray both of which were normal 
and ordered a d-dimer which is positive, referred for CT scan 
which showed bilateral pulmonary emboli; referred to the 
emergency department for heparinization and admission. On 
arrival, patient has only minor pleuritic chest pain, is 
comfortable and conversational. Denies any recent flights, leg 
swelling, calf tenderness. 
In the ED:
VS: 4 |98.7 |72 |127/78 |16 |100% RA |
He was given:
___ 20:52 IV Morphine Sulfate 4 mg x 2 
___ 20:54 IV Heparin 7100 UNIT bolus
___ 20:54 IV Heparin  Started 1600 units/hr 
Given his b/l clot burden he was deemed too high risk for 
discharge home with a NOAC. He was thus admitted to medicine. 
.
ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 
.
 
Past Medical History:
R ACL tear c/b pulmonary embolus in ___. He was in the ICU for 
4 days and then on the floor for 4 days. He was on Coumadin for 
6 months
Chronic pain of right knee 
Psoriasis 
 
Social History:
___
Family History:
No family members with history of blood clots.
Father Alive  and in good health
Maternal Grandfather  colon cancer [OTHER] (70) 
Mother Alive  
Sister Alive 
 
Physical Exam:
ADMISSION EXAM:
VITALS: 99.0PO| 130 / 78 74 20 98% on RA ___ 
GENERAL: Alert and in distress. He looks very uncomfortable. 
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  
RESP: LL lung field with marked decrease in lung sounds. R lung 
field is largely clear 
GI: Abdomen soft, non-distended, L mid quadrant tenderness close 
to the ribs 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
Vital Signs: ___ 0749 Temp: 97.9 PO BP: 121/72 HR: 63 RR: 
18
O2 sat: 95% O2 delivery: RA 
GEN: Alert, NAD, appears much more comfortable today
HEENT: NC/AT
CV: RRR, no m/r/g
PULM: CTAB, breathing comfortably
GI: S/NT/ND, BS present 
EXT: no ___ edema or calf tenderness
NEURO: Non-focal
 
Pertinent Results:
___ 06:18PM BLOOD WBC-9.3 RBC-5.06 Hgb-15.5 Hct-45.9 MCV-91 
MCH-30.6 MCHC-33.8 RDW-13.2 RDWSD-43.7 Plt ___
___ 06:18PM BLOOD Neuts-74.0* Lymphs-16.5* Monos-8.8 
Eos-0.3* Baso-0.1 Im ___ AbsNeut-6.84* AbsLymp-1.53 
AbsMono-0.81* AbsEos-0.03* AbsBaso-0.01
___ 06:18PM BLOOD ___ PTT-27.3 ___
___ 06:18PM BLOOD Glucose-94 UreaN-12 Creat-0.9 Na-141 
K-4.2 Cl-102 HCO3-26 AnGap-13
___ 06:18PM BLOOD cTropnT-<0.01 proBNP-30
___ 07:00PM BLOOD Calcium-9.5 Phos-3.7 Mg-2.2
___ 07:30AM BLOOD WBC-5.0 RBC-4.66 Hgb-13.9 Hct-42.9 MCV-92 
MCH-29.8 MCHC-32.4 RDW-13.1 RDWSD-43.7 Plt ___
___ 07:30AM BLOOD ___ PTT-91.9* ___
___ 07:30AM BLOOD Glucose-110* UreaN-11 Creat-1.0 Na-141 
K-4.6 Cl-101 HCO3-26 AnGap-14
___ 07:30AM BLOOD Calcium-9.2 Phos-3.1 Mg-2.1

Beta-2 glycoprotein and anticardiolipin Ab's PENDING

Bilateral LENIs - IMPRESSION: 
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.

TTE - The left atrium is normal in size. No atrial septal defect 
is seen by 2D or color Doppler. The estimated right atrial 
pressure is ___ mmHg. Normal left ventricular wall thickness, 
cavity size, and regional/global systolic function (biplane LVEF 
= 61 %). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). The right 
ventricular cavity is mildly dilated with normal free wall 
contractility. The aortic arch is mildly dilated. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion.
IMPRESSION: Mildly dilated right ventricle with preserved global 
and regional biventricular systolic function. Mildly dilated 
aortic arch. No significant valvular disease. 
 
Brief Hospital Course:
___ y/o M with PMHx of provoked pulmonary embolism in ___ in the 
setting of a torn right ACL, with negative coagulopathy w/u at 
that time, who presents with 3 days of worsening pleuritic chest 
pain, found to have b/l PEs. 

While the patient does have a history of provoked PE in the 
past, his current PE's are seemingly unprovoked. He was placed 
on a heparin gtt. Tn and BNP WNL. ___ negative for DVT, TTE 
only with mild RV dilation and mildly enlarged aortic arch. 
Would repeat TTE in 1 month. He was seen by hematology, who 
recommended sending beta-2 glycoprotein and anti-cardiolipin 
antibodies, both of which were pending at the time of discharge. 
Age-appropriate cancer screening in this patient would include 
testicular exam, which was performed and was negative for any 
palpable masses. He was transitioned to Rivaroxaban at 
discharge. Pleuritic chest pain was initially controlled with IV 
morpine but improved throughout hospital course. He had not 
required any morphine for 24 hours at the time of discharge.

Transitional Issues:
[] Repeat TTE in 1 month, given mild RV dilation and enlarged 
aortic arch on inpatient TTE.
[] Pt started on Rivaroxaban for anticoagulation.
[] F/u beta-2 glycoprotein and anti-cardiolipin antibodies.
[] Hematology follow-up in 3 months.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 
2. Calcipotriene 0.005% Cream 1 Appl TP BID 
3. Aspirin 81 mg PO DAILY 
4. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1.  Rivaroxaban ___ mg PO ASDIR 
with food 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) 1 tablets(s) by 
mouth AS DIRECTED Disp #*1 Dose Pack Refills:*0 
2.  Calcipotriene 0.005% Cream 1 Appl TP BID  
3.  Clobetasol Propionate 0.05% Cream 1 Appl TP BID  
4.  Multivitamins W/minerals 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bilateral Pulmonary Emboli
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital after you were found to have 
bilateral pulmonary emboli. You were initially treated with IV 
heparin for anticoagulation and were then transitioned to an 
oral anticoagulant. You were seen by the hematology team, and 
you will follow up with them as an outpatient. As you discussed 
with them, it is important that you avoid contact sports, 
including skiing, while on blood thinners.

As we discussed, you should follow up with your primary care 
physician as per below. She should order a repeat echocardiogram 
in 1 month.

Instructions for rivaroxaban dosing:
- You will take 15 mg twice a day for 3 weeks.
- You will then take 20 mg daily.
 
Followup Instructions:
___